US07951838B2
To a 25 mL RBF was added zinc powder (1.03 g, 15.8 mmol) and iodine (0.0161 g, 0.0633 mmol). The mixture was heated with a heat gun for 5 minutes and the resulting mixture was then flushed with nitrogen 3 times and allowed to cool to rt. A solution of (R)-methyl 2-(tert-butoxycarbonyl)-3-iodopropanoate (3.47 g, 10.5 mmol) in 5 mL of DMF was added dropwise to the mixture over 3 minutes and the resulting grey slurry was stirred at 0° C. for 20 minutes before being warmed to rt. After stirring at rt for 30 minutes, 5-bromo-2,2-difluorobenzo[d][1,3]dioxole (2.50 g, 10.5 mmol), Pd2(dba)3 (0.193 g, 0.211 mmol) and S(Phos) (0.346 g, 0.844 mmol) were added and the reaction mixture was heated to 40° C. for 2 hours. The resulting mixture was cooled to rt and partitioned between ethyl acetate (50 mL) and a solution of ˜9:1 saturated ammonium chloride/ammonium hydroxide pH=9 (250 mL). The aqueous layer was extracted with ethyl acetate (3×100 mL) and the combined organic layers were washed with water, brine, and dried over sodium sulfate. Concentration of the filtered solvents and purification of resulting crude material by silica gel chromatography provided (S)-methyl 2-(tert-butoxycarbonyl)-3-(2,2-difluorobenzo[d][1,3]dioxol-5-yl)propanoate (1.89 g, 49.9% yield) as a slightly brown oil.

reactant | (R)-methyl 2-(tert-butoxycarbonyl)-3-iodopropanoate | 10.5 mmol, 3.47 g | C(C)(C)(C)OC(=O)[C@@H](C(=O)OC)CI | C9H15IO4
reactant | 5-bromo-2,2-difluorobenzo[d][1,3]dioxole | 10.5 mmol, 2.50 g | BrC1=CC2=C(OC(O2)(F)F)C=C1 | C7H3BrF2O2
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
catalyst | zinc | 15.8 mmol, 1.03 g | [Zn] | Zn
catalyst | Pd2(dba)3 | 0.211 mmol, 0.193 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | iodine | 0.0633 mmol, 0.0161 g | II | I2
product | (S)-methyl 2-(tert-butoxycarbonyl)-3-(2,2-difluorobenzo[d][1,3]dioxol-5-yl)propanoate | 1.89 g, 49.9% yield | C(C)(C)(C)OC(=O)[C@H](C(=O)OC)CC1=CC2=C(OC(O2)(F)F)C=C1 | C16H18F2O6
